US06224791B1
5,7-di-t-butyl 3-phenyl-3H-benzofuran-2-one
These blends were then added at 1000 ppm to Profax 6501 polypropylene along with 500 ppm of a hindered phenol antioxidant, namely tetrakis[methylene(3,5-di-t-butylhydroxyhydrocinnamate)]methane (DOVERNOX 10); octadecyl 3,5-di-t-butyl-4-hydroxyhydrocinnamate (DOVERNOX 76); and 1,3,5-tris(3,5-di-t-butyl-4-hydroxylbenzyl)-1,3,5-triazine-2,4,6(1H, 3H,5H)-trione (DOVERNOX 3114), and 500 ppm calcium stearate. The polymer was then subjected to multiple pass extrusion as described in Example 1. A comparison was made with multiple pass extrusions in which TNPP was substituted for the blend. The results are given in Table 2

reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | octadecyl 3,5-di-t-butyl-4-hydroxyhydrocinnamate | C(C)(C)(C)C=1C=C(CCC(=O)OCCCCCCCCCCCCCCCCCC)C=C(C1O)C(C)(C)C | C35H62O3
reactant | 1,3,5-tris(3,5-di-t-butyl-4-hydroxylbenzyl)-1,3,5-triazine-2,4,6(1H, 3H,5H)-trione | C(C)(C)(C)C=1C=C(CN2C(N(C(N(C2=O)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C48H69N3O6
reactant | calcium stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Ca+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
reactant | TNPP | CC1=CN(C(=O)NC1=O)/C=C/C=O | C8H8N2O3
product | 5,7-di-t-butyl 3-phenyl-3H-benzofuran-2-one | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)C2=CC=CC=C2)C1)C(C)(C)C | C22H26O2
